US06429214B1
[1-Benzyl-7-(4-aminobutoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester
The title compound is prepared according to the procedure of Example 78 except that [7-(2-tert-butoxycarbonylamino-ethoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester is replaced with [7-(4-tert-butoxycarbonylaminobutoxy)-1-benzyl-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester.

reactant | [7-(2-tert-butoxycarbonylamino-ethoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester | COC(CC1C(NC2=CC(=CC=C2C1)OCCNC(=O)OC(C)(C)C)=O)=O | C19H26N2O6
reactant | [7-(4-tert-butoxycarbonylaminobutoxy)-1-benzyl-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)OCCCCNC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C28H34N2O6
product | [1-Benzyl-7-(4-aminobutoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]acetic acid methyl ester | COC(CC=1C(N(C2=CC(=CC=C2C1)OCCCCN)CC1=CC=CC=C1)=O)=O | C23H26N2O4
